US09145415B2
To 2-((3-fluorophenyl)amino)-N-(2-hydroxy-4-nitrophenyl)-4-(propylamino)pyrimidine-5-carboxamide (E24, 11 mg) and p-toluenesulfonic acid monohydrate (15 mg), xylene (1.5 mL) was added at room temperature, and the mixture was stirred at 155° C. for 4 hours. The reaction mixture was cooled to room temperature, and then purified by silica gel column chromatography (eluent, 100 to 80% ethyl acetate in methanol). To the obtained solid matter, saturated aqueous sodium hydrogencarbonate and ethyl acetate were added. The organic layer was separated, washed successively with saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. To the obtained residue, ethyl acetate were added, and the solid matter was taken by filtration to obtain N2-(3-fluorophenyl)-5-(6-nitrobenzo[d]oxazol-2-yl)-N4-propylpyrimidine-2,4-diamine (E25) as yellow solid.

reactant | 2-((3-fluorophenyl)amino)-N-(2-hydroxy-4-nitrophenyl)-4-(propylamino)pyrimidine-5-carboxamide | 11 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCC)C(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O | C20H19FN6O4
reactant | p-toluenesulfonic acid monohydrate | 15 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | xylene | 1.5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N2-(3-fluorophenyl)-5-(6-nitrobenzo[d]oxazol-2-yl)-N4-propylpyrimidine-2,4-diamine | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCC)C=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C20H17FN6O3
